US05962458
A mixture of 7-benzyloxy-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (7 g, 17.7 mmol) and 10% palladium-on-charcoal catalyst (700 mg) in ethyl acetate (250 ml), DMF (50 ml), methanol (50 ml) and acetic acid (0.7 ml) was stirred under hydrogen at atmospheric pressure for 40 minutes. The catalyst was removed by filtration and the solvent removed from the filtrate by evaporation. The residue was triturated with ether, collected by filtration and dried under vacuum to give 7-hydroxy-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (4.36 g, 80%).

reactant | 7-benzyloxy-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 17.7 mmol, 7 g | C(C1=CC=CC=C1)OC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C22H24N2O5
catalyst | palladium-on-charcoal | 700 mg | [Pd] | Pd
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | methanol | 50 ml | CO | CH4O
solvent | acetic acid | 0.7 ml | C(C)(=O)O | C2H4O2
product | 7-hydroxy-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 4.36 g, 80% | OC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC | C15H18N2O5
